US07977485B2
7-Bromo-5-fluoro-1-benzofuran-2-carboxylic acid
1.0 g (5.24 mmol) of 2-bromo-4-fluorophenol is introduced into 4.0 ml of trifluoroacetic acid. 1.47 g (10.47 mmol) of hexamethylenetetramine are added in portions over the course of 20 min. The mixture is then boiled under reflux for 28 h. At RT, 6 ml of water and 3 ml of 50% strength sulphuric acid are added. After 2 h, the mixture is extracted twice with a total of 60 ml of ethyl acetate. The combined organic phases are washed four times with 1N hydrochloric acid and once with water. Drying over magnesium sulphate is followed by removal of the solvent under reduced pressure. Finally, the last residues of solvent are removed under high vacuum. The crude product (without further purification) and 0.19 g (0.52 mmol) of tetra-n-butylammonium iodide are mixed with 2.9 g (20.96 mmol) of anhydrous potassium carbonate. 1.19 g (11.0 mmol) of methyl chloroacetate are added. The reaction mixture is heated at 130° C. for 4 h and then cooled to 0° C. in an ice bath. 18 ml of THF and a solution of 1.76 g (31.44 mmol) of potassium hydroxide in 18 ml of water are added. The mixture is stirred at RT overnight. The solvent is removed under reduced pressure. Dilution with water is followed by acidification with concentrated hydrochloric acid. The mixture is extracted twice with ethyl acetate. The combined organic phases are dried over magnesium sulphate, and the solvent is removed in a rotary evaporator under reduced pressure; Silicagel 60 (Merck, Darmstadt; eluent: toluene/acetic acid 40:1) is used for purification. The solvent is removed under reduced pressure. Finally, the last residues of solvent are removed under high vacuum. 257 mg (19% of theory over the two stages) of the title compound are isolated.

reactant | 2-bromo-4-fluorophenol | 5.24 mmol, 1.0 g | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
reactant | trifluoroacetic acid | 4.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hexamethylenetetramine | 10.47 mmol, 1.47 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | potassium carbonate | 20.96 mmol, 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl chloroacetate | 11.0 mmol, 1.19 g | ClCC(=O)OC | C3H5ClO2
reactant | potassium hydroxide | 31.44 mmol, 1.76 g | [OH-].[K+]
catalyst | tetra-n-butylammonium iodide | 0.52 mmol, 0.19 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 18 ml | O | H2O
solvent | water | 6 ml | O | H2O
solvent | THF | 18 ml | C1CCOC1 | C4H8O
product | 7-Bromo-5-fluoro-1-benzofuran-2-carboxylic acid | BrC1=CC(=CC=2C=C(OC21)C(=O)O)F | C9H4BrFO3
